US06713471B1
The 4-((6bR,10aS)-1,2,6b,9,10,10a-hexahydropyrido[4,3-b][1,4]thiazino[2,3,4-hi]indol-8(7H)-yl)-1-(4-fluorophenyl)-1-butanone (349 mg, 25%) was prepared from (6bR,10aS)-1,2,6b,7,8,9,10,10a-octahydropyrido[4,3-b][1,4]thiazino[2,3,4-hi]indolehydrochloride (750 mg, 2.79 mmol) with 4-chloro-1-(4-fluorophenyl)-1-butanone (3.0 mL, 15.24 mmol) using the procedure described in Example 456 Step A.

reactant | (6bR,10aS)-1,2,6b,7,8,9,10,10a-octahydropyrido[4,3-b][1,4]thiazino[2,3,4-hi]indolehydrochloride | 2.79 mmol, 750 mg | Cl.C1CSC=2C=CC=C3[C@H]4[C@@H](N1C23)CCNC4
reactant | 4-chloro-1-(4-fluorophenyl)-1-butanone | 15.24 mmol, 3.0 mL | ClCCCC(=O)C1=CC=C(C=C1)F | C10H10ClFO
product | 4-((6bR,10aS)-1,2,6b,9,10,10a-hexahydropyrido[4,3-b][1,4]thiazino[2,3,4-hi]indol-8(7H)-yl)-1-(4-fluorophenyl)-1-butanone | 349 mg, 25% | C1CSC=2C=CC=C3[C@H]4[C@@H](N1C23)CCN(C4)CCCC(=O)C4=CC=C(C=C4)F | C23H25FN2OS
